US08202984B2
A suspension of sodium iodide (15.0 g) in acetonitrile (100 ml) was cooled to 0° C. under argon atmosphere, and thereto were added dropwise chlorotrimethylsilane (12.7 ml), 2,4-pentanedione (2.05 ml) and 4-ethylbenzaldehyde (2.68 g), successively. The reaction mixture was stirred at room temperature for 17 hours, and further stirred at 60° C. for 10 hours. The reaction mixture was cooled to room temperature and poured into an aqueous sodium thiosulfate solution. The mixture was extracted with diethyl ether, and the extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 3-(4-ethylphenylmethyl)-2,4-pentanedione (2.72 g) as pale yellow oil. APCI-Mass m/Z 219 (M+H).

reactant | sodium iodide | 15.0 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 12.7 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2,4-pentanedione | 2.05 ml | CC(CC(C)=O)=O | C5H8O2
reactant | 4-ethylbenzaldehyde | 2.68 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(4-ethylphenylmethyl)-2,4-pentanedione | 2.72 g | C(C)C1=CC=C(C=C1)CC(C(C)=O)C(C)=O | C14H18O2
